US08859592B2
To a solution of 7-bromo-benzo[1,2,5]thiadiazole-4-carbaldehyde (16.65 g) (Example I3) in ethanol (150 ml) were added hydroxylamine hydrochloride (9.52 g), sodium hydrogen carbonate (11.51 g) and water (15 ml). The reaction mixture was stirred at ambient temperature for 16 hours. The reaction mixture was diluted with ethyl acetate (1500 ml) and water (400 ml). After separation of the phases, the aqueous layer was extracted with ethyl acetate (200 ml). The combined organic layers were washed with water (200 ml) and brine (200 ml), dried over sodium sulfate and concentrated to give 7-bromo-benzo[1,2,5]-thiadiazole-4-carbaldehyde oxime (16.65 g) as a brown solid. 1H-NMR (DMSO-d6, 400 MHz): 11.94 (s, 1H), 8.66 (s, 1H), 8.09-9.90 (m, 2H) ppm.

reactant | 7-bromo-benzo[1,2,5]thiadiazole-4-carbaldehyde | 16.65 g | BrC1=CC=C(C2=NSN=C21)C=O | C7H3BrN2OS
reactant | hydroxylamine hydrochloride | 9.52 g | Cl.NO
reactant | sodium hydrogen carbonate | 11.51 g | C(O)([O-])=O.[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | ethyl acetate | 1500 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 400 ml | O | H2O
solvent | water | 15 ml | O | H2O
product | 7-bromo-benzo[1,2,5]-thiadiazole-4-carbaldehyde oxime | 16.65 g | BrC1=CC=C(C2=NSN=C21)C=NO | C7H4BrN3OS
